US07498068B2
CBDA/3-ABA
19.22 g (0.098 mol) of CBDA and 12.22 g (0.1 mol) of 3-ABA were reacted in 283 g of NMP at room temperature for 5 hours to prepare a polyamic acid solution. The polymerization reaction proceeded easily and uniformly, and the molecular weights were measured in the same manner as in Preparation Example 1 and as a result, a solution of a polyamic acid having a number average molecular weight of 28,114 and a weight average molecular weight of 45,429 was obtained. Further, to this solution, poor solvents BCS and NMP were added so that the polyamic acid concentration would be 5 mass % and the BCS concentration would be 20 mass % to prepare a liquid crystal aligning agent.

reactant | CBDA | 0.098 mol, 19.22 g | C12C(C3C1C(=O)OC3=O)C(=O)OC2=O | C8H4O6
reactant | 3-ABA | 0.1 mol, 12.22 g | C1=CC(=CC(=C1)N)C(=O)N | C7H8N2O
solvent | NMP | 283 g | CN1CCCC1=O | C5H9NO
product | CBDA 3-ABA | C12C(C3C1C(=O)OC3=O)C(=O)OC2=O.C1=CC(=CC(=C1)N)C(=O)N | InChI=1S/C8H4O6.C7H8N2O/c9-5-1-2(6(10)13-5)4-3(1)7(11)14-8(4)12;8-6-3-1-2-5(4-6)7(9)10/h1-4H;1-4H,8H2,(H2,9,10)
